US07074777B2
(2) Synthesis of 1α,3β-dihydroxy-17-{4-hydroxy-4-methyl-(2E)-pentenylthiomethyl}androsta-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-17-{4-triethylsilyloxy-4-methyl-(2E)-pentenylthiomethyl}androsta-5,7,16-triene (115 mg, 0.149 mmol) and a 1M tetra-n-butylammonium fluoride tetrahydrofuran solution (4 ml) were subjected to reaction using a procedure similar to that of Example 5(2) (3 hours), worked up and purified by column chromatography (ethyl acetate) to give the titled compound (64 mg, 100%) as a pale yellow foam.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-17-{4-triethylsilyloxy-4-methyl-(2E)-pentenylthiomethyl}androsta-5,7,16-triene | 0.149 mmol, 115 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CS\C=C\CC(C)(C)O[Si](CC)(CC)CC)O[Si](C)(C)C(C)(C)C | C44H80O3SSi3
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 1M, 4 ml | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1α,3β-dihydroxy-17-{4-hydroxy-4-methyl-(2E)-pentenylthiomethyl}androsta-5,7,16-triene | 64 mg, 100% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CS\C=C\CC(C)(C)O)O | C26H38O3S
